US07947690B2
A mixture of 246 mg of [1-(2-cyclopentyl-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperidin-4-yl]acetic acid, 75 mg of ammonium carbonate, 0.11 g of HOBt, 0.16 g of EDCI, and 6 ml of DMF was stirred at ambient temperature for 3 days. The solvent was distilled off under reduced pressure, water was added to the residue, and the mixture was extracted with EtOAc. The organic phase obtained was washed with a saturated aqueous sodium bicarbonate and brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue obtained was purified by silica-gel column chromatography (chloroform-MeOH) to yield a foamy product. This product was dissolved in THF, here was added 4M HCl-dioxane solution, the solution was concentrated under reduced pressure, the residue was washed with ether to yield 184 mg of [1-(2-cyclopentyl-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperidin-4-yl]acetamide hydrochloride.

reactant | [1-(2-cyclopentyl-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperidin-4-yl]acetic acid | 246 mg | C1(CCCC1)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCC(CC2)CC(=O)O | C18H25N3O4S
reactant | ammonium carbonate | 75 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | HOBt | 0.11 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.16 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | [1-(2-cyclopentyl-6,6-dioxo-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperidin-4-yl]acetamide hydrochloride | 184 mg | Cl.C1(CCCC1)C=1N=C(C2=C(N1)CS(C2)(=O)=O)N2CCC(CC2)CC(=O)N | InChI=1S/C18H26N4O3S.ClH/c19-16(23)9-12-5-7-22(8-6-12)18-14-10-26(24,25)11-15(14)20-17(21-18)13-3-1-2-4-13;/h12-13H,1-11H2,(H2,19,23);1H
